US07981903B2
NaBH4 (1.18 g, 31.1 mmol) was added carefully in portions (exothermic) to a suspension of 1-{1-[3-(methyloxy)-4-nitrophenyl]-4-piperidinyl}-4-(methylsulfonyl)piperazine (3.54 g, 8.9mmol), NiCL2.6H2O (1.06 g, 4.4 mmol), MeOH (100 mL) and THF (50 mL) at 0° C. The ice bath was removed and the reaction mixture was warmed to room temperature. The reaction mixture was concentrated onto silica gel and flash chromatography afforded 2-(methyloxy)-4-{4-[4-(methylsulfonyl)-1-piperazinyl]-1-piperidinyl}aniline (2.93 g, 90%) as a colourless solid. 1H NMR (400 MHz, DMSO-d6) δ 6.49-6.46 (m, 2H), 6.27 (dd, J=8.5, 2.6 Hz, 1H), 4.18 (bs, 2H), 3.71 (s, 3H), 3.44-3.38 (m, 2H), 3.11-3.04 (m, 4H), 2.84 (s, 3H), 2.61-2.54 (m, 6H complicated by DMSO peak), 2.35-2.26 (m, 1H), 1.80-1.77 (m, 2H), 1.56-1.46 (m, 2 H).

reactant | NaBH4 | 31.1 mmol, 1.18 g | [BH4-].[Na+]
reactant | 1-{1-[3-(methyloxy)-4-nitrophenyl]-4-piperidinyl}-4-(methylsulfonyl)piperazine | 8.9mmol, 3.54 g | COC=1C=C(C=CC1[N+](=O)[O-])N1CCC(CC1)N1CCN(CC1)S(=O)(=O)C | C17H26N4O5S
reactant | MeOH | 100 mL | CO | CH4O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 2-(methyloxy)-4-{4-[4-(methylsulfonyl)-1-piperazinyl]-1-piperidinyl}aniline | 2.93 g, 90% | COC1=C(N)C=CC(=C1)N1CCC(CC1)N1CCN(CC1)S(=O)(=O)C | C17H28N4O3S
